US07667041B2
A 50% sodium hydroxide solution (5 mL) and tetrabutylammonium hydrogen sulfate (859 mg) were added to the toluene (8 mL) solution of 3-(2-bromoethoxy)-4-fluorobenzaldehyde derivative (606 mg) obtained above, and the reaction solution was agitated at room temperature for 1 hour. Water and ethyl acetate were added to the reaction solution after the reaction ended, and the organic layer was separated. The obtained organic layer was washed with a saturated sodium chloride solution, and the solvent was evaporated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 6:1), and 200 mg (49%) of 4-fluoro-3-vinyloxybenzaldehyde was obtained. The physical properties of the compound are as follows.

reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-(2-bromoethoxy)-4-fluorobenzaldehyde | 606 mg | BrCCOC=1C=C(C=O)C=CC1F | C9H8BrFO2
reactant | Water | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 859 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-3-vinyloxybenzaldehyde | 200 mg, 49% | FC1=C(C=C(C=O)C=C1)OC=C | C9H7FO2
